US06555577B1
tert-Butyllithium (1.7M in pentane, 3.5 ml, 6.0 mmol) was added dropwise, at −78° C. to a stirred THF (10 ml) solution of (E)-[3-(4-bromo-phenyl)-allyloxy]-tert-butyldimethylsilane (982 mg, 3.0 mmol) and the resulting solution stirred for 45 min. Trimethylborate (0.51 ml, 4.50 mmol) was added, the solution allowed to warm to room temperature over 2h, and the solvents evaporated to give the crude boronate ester as a yellow gum, which was dissolved in DME (10 ml). Tetrakis(triphenylphosphine)palladium(0) (69 mg, 0.06 mmol), was added to a stirred DME (20 ml) solution of 1-bromo-3,5-di-tert-butylbenzene (538 mg, 2.0 mmol), the solution stirred for 10 min, aqueous sodium carbonate (2M, 9 ml, 18.0 mmol) added, and stirring continued for a further 10 min. The boronate ester solution was added and the mixture heated to 80° C, under reflux, for 24 h. The resulting mixture was diluted with 1N HCl (50 ml), the products extracted into ethyl acetate (3×50 ml), and the combined extracts washed with brine, dried (MgSO4), and evaporated. The resulting yellow gum was dissolved in dry THF (20 ml), tetra-n-butyl ammonium fluoride (1.26 g, 4.0 mmol) added and the solution stirred at room temperature for 18 h. The resulting mixture was diluted with 1N HCl (50 ml), and the products extracted into ethyl acetate (2×50 ml). The combined organic phases were washed with brine, dried (MgSO4), and evaporated to give the colourless glass, (E)-3-(3′,5′-di-tert-butyl-biphenyl-4-yl)-prop-2-en-1-ol (127 mg, 20%).

reactant | tert-Butyllithium | 6.0 mmol, 1.7M, 3.5 ml | C(C)(C)(C)[Li]
reactant | (E)-[3-(4-bromo-phenyl)-allyloxy]-tert-butyldimethylsilane | 3.0 mmol, 982 mg | BrC1=CC=C(C=C1)/C=C/CO[Si](C)(C)C(C)(C)C | C15H23BrOSi
reactant | Trimethylborate | 4.50 mmol, 0.51 ml | COB(OC)OC | C3H9BO3
reactant | 1-bromo-3,5-di-tert-butylbenzene | 2.0 mmol, 538 mg | BrC1=CC(=CC(=C1)C(C)(C)C)C(C)(C)C | C14H21Br
reactant | sodium carbonate | 18.0 mmol, 2M, 9 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | tetra-n-butyl ammonium fluoride | 4.0 mmol, 1.26 g | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | DME | 10 ml | COCCOC | C4H10O2
solvent | HCl | 1N, 50 ml | Cl | ClH
solvent | HCl | 1N, 50 ml | Cl | ClH
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.06 mmol, 69 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DME | 20 ml | COCCOC | C4H10O2
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | (E)-3-(3′,5′-di-tert-butyl-biphenyl-4-yl)-prop-2-en-1-ol | 127 mg, 20% | C(C)(C)(C)C=1C=C(C=C(C1)C(C)(C)C)C1=CC=C(C=C1)/C=C/CO | C23H30O
